US04639469
Preparation of α-pinene epoxide
550 ml of a 23.3% (151 g) chloroform solution of 100% perbenzoic acid, are loaded into a glass reactor vessel of 2 l capacity, externally cooled to -15° C. Over a period of around 2 hours 150 g of 95% α-pinene are dripped in, maintaining the temperature between -5° C. and -2° C. The solution is then stirred for 1 hour, lowering the temperature to -10° C. At this temperature the perbenzoic acid which has precipitated out is filtered off. The chloroform solution obtained is washed with a small quantity of a 20% alkaline solution of sodium carbonate (Ha2CO3), in order to eliminate the contained residual benzoic acid. The process is then completed as in example 2a.

reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | α-pinene | 150 g | CC1=CCC2CC1C2(C)C | C10H16
solvent | chloroform | 151 g | C(Cl)(Cl)Cl | CHCl3
product | α-pinene epoxide | CC1(C2CC1C3(C(C2)O3)C)C | C10H16O
